US06774086B2
0.853 g (6.20 mmol) of K2CO3, 0.154 g (0.90 mmol) of Kl and 1.000 g (3.10 mmol) of ethyl 2,4-dibromo-3-hydroxybenzoate were introduced into 15 ml of DMF. 0.346 g (3.70 mmol) of chloroacetamide was added at RT, and the mixture was heated for 6 hours at 120° C. The mixture was then poured into water and extracted with diisopropyl ether. The combined organic phases were washed with water, dried over Na2SO4 and concentrated completely. Drying in an oil-pump vacuum gave ethyl 2,4-dibromo-3-(aminocarbonylmethoxy)benzoate as a brown oil.

reactant | K2CO3 | 6.20 mmol, 0.853 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2,4-dibromo-3-hydroxybenzoate | 3.10 mmol, 1.000 g | BrC1=C(C(=O)OCC)C=CC(=C1O)Br | C9H8Br2O3
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | chloroacetamide | 3.70 mmol, 0.346 g | ClCC(=O)N | C2H4ClNO
solvent | water | O | H2O
product | ethyl 2,4-dibromo-3-(aminocarbonylmethoxy)benzoate | BrC1=C(C(=O)OCC)C=CC(=C1OCC(=O)N)Br | C11H11Br2NO4
